data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,7099,"CO[C:1]1=[C:2]2C=CC=C[C:3]2=[CH:4]C=C1.O=[S+:5](=O)O|((1, 2), 3);((3, 4), 5)"
train,pmechdb_split_0,0,703,"CC(=O)C1=CO[CH:1]=[CH:2]1.C[CH+:3]C|((2, 1), 3)"
train,pmechdb_split_0,0,5486,"CC(C)(C)OC(=O)N1C(C=O)COC1(C)C.CCCC[N+](CCCC)(CCCC)CCCC.C[Si:1](C)(C)C1=NC=CS1.[F-:2]|(2, 1)"
train,pmechdb_split_0,0,3834,"CC[C:1](=[O:2])[CH:3]=[CH2:4].C[C:5]1=[C:6]([O-:7])CCCC1|(7, 6);((6, 5), 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,9037,"CSC(OC(=O)C(F)(F)F)C(OCC1=CC=CC=C1)C1OC(C)(C)OC1C(C[S+](C)O[C:1](C(F)(F)F)([O-:2])[O:3]C(=O)C(F)(F)F)OCC1=CC=CC=C1.O=C(O)C(F)(F)F|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,5565,"CC(=O)O[C:1](C)=[O:2].C[N+]1([O-:3])C2C=CCC1CC2|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4411,"CC(=O)[O-].CC1CC(O)([CH:1]([OH:2])[SH+:3]C2=CC=CC=C2)C(C)(CCCO[Si](C)(C)C(C)(C)C)C=C1CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C.[Na+]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,10033,"CC(=O)C[CH:1]([H:2])[CH:3]=[O:4].[OH-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,1702,"CO[CH:1]=[CH:2]C1=CC=CC=C1.[H:3][Br:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,339,"CN(C)[C:1](=[CH:2]C)[O-:3].[Br:4][Br:5]|(3, 1);((1, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,7822,"CC(=CC[C:1](C)=[O:2])[NH:3]C1=C(Br)C=CC=C1.CC(=O)O.O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2297,"CS(=O)(=O)[O-:1].C[O+](C)[Si:2](C)(C)C|(1, 2)"
train,pmechdb_split_0,0,2257,"CCNC(C)[O-:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6377,"CCOC1C(C)C(=N[OH+][C:1](C2=CC=C([N+](=O)[O-])C=C2)([O-:2])[Cl:3])C1(C)C|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,2328,"C=C1C[C:1]([N+]2=CC=C(N(C)C)C=C2)([O-:2])[O:3]1.O=C1C=CC(O)(C#CC2=CC=CC=C2)C=C1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,2235,"CC1=N[C:1](=[OH+:2])[C:3]([N+](=O)[O-])([H:4])C(O)=N1.O.O=S(=O)(O)[O-:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,1383,"CC(=O)C[CH:1](C1=CC=CC=C1)[OH2+:2]|((1, 2), 2)"
train,pmechdb_split_0,0,3270,"CCCOC(C)=[O:1].F[B:2](F)F|(1, 2)"
train,pmechdb_split_0,0,6528,"CC1([CH:1]=[CH2:2])CCCC1.[H:3][OH2+:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,6806,"CCC[CH2][Sn]([CH2]CCC)([CH2]CCC)[CH]1C=CC[CH:1]=[CH:2]1.CC[CH:3]=[O+:4][B-](F)(F)F|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,8454,"CS(=O)(=O)C1=CC=C(C2=C[N-:1][C:2](O)([N+:3]#N)C=N2)C=C1.O=S(=O)([O-])O.[Na+]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2669,"CC1=C[CH:1]=[C:2](C)O1.C[C+:3]=O|((2, 1), 3)"
train,pmechdb_split_0,0,3708,"CC1C(CCCCO)[O:1]1.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3031,"C1=CC=[N:1]C=C1.O=S(Cl)[O+:2](CCCO)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2127,"CC[O+:1](C(C)CBr)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6543,"CC1=CC=CC(C)=[NH+]1.C[Si-:1](C)(C)(OC1=C2C(=O)CCC3(OC4=CC=CC5=CC=CC(=C54)O3)C2=CC=C1)[O:2]S(=O)(=O)C(F)(F)F|((1, 2), 2)"
train,pmechdb_split_0,0,8197,"NC1=C2NC(=O)N(C3OC(CO)C(O)C3O)C2=NC([O:1][H:2])N1CC1=CC(Br)=C(O)C(Br)=C1.[Br-].[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6209,"C[O+:1](C1=CC=CC=C1)[Li:2]|((2, 1), 1)"
train,pmechdb_split_0,0,4978,"C1=C[CH:1]=[CH:2]S1.C[C+:3]=O|((1, 2), 3)"
train,pmechdb_split_0,0,7674,"COC1OC2COC(C3=CC=CC=C3)OC2[CH:1]2C1[S+:2]2C1=CC=CC=C1.CS(=O)(=O)[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8679,"CCCCCCN1CCC23C=CCCC2(O)C1CC1=C3C([O-:1])=C(OC)C=C1.N#N.[H:2][OH:3].[K+]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,195,"CC([O-])(O)[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2682,"CC(C)=CC[OH:1].CC1=CC=C(S(=O)(=O)[O-])C=C1.CCCCCC1=CC(O)=C(CC=C(C)C)C(O)=C1.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6073,"CCC1C[C+:1]=NC2=CC=CC=C21.CCN(CC)CC.[OH2:2]|(2, 1)"
train,pmechdb_split_0,0,1904,"CC[O-:1].O=[N+]([O-])[C:2]1=[CH:3][CH:4]=[C:5](I)C=C1|(1, 5);((5, 4), 3);((3, 2), 2)"
train,pmechdb_split_0,0,8259,"C1=CC=NC=C1.CN(C)C1=CC=[N+]([C:1](C2=CC=CC=C2)=[O:2])C=C1.O=[N+]([O-])C1=C([NH2:3])C=CC=C1.[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2992,"CC(=O)C(=CC(O)C(O)C(O)C(CO)[O:1][H:2])C(C)=O.O=C(O)O.[Na+].[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3928,"C[C:1](=[CH:2]CCC[CH2:3][Br:4])[O-:5]|(5, 1);((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,5596,"COC1=C(C)C=C2CC3(C)C(O)CCC(C2=C1)[C:1]3([NH+:2]1CCCC1)[OH:3].O.[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8720,"CC(C)[C:1]1([H:2])C2=C(C=C[CH+:3]1)C([N+](=O)[O-])=CC=C2.[F-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,623,"C[NH+](C)C1=CC=C[CH:1]=[CH:2]1.O=[S+:3](=O)O|((2, 1), 3)"
train,pmechdb_split_0,0,6387,"CCCOC(CCC)=[O:1].[BH3:2]|(1, 2)"
train,pmechdb_split_0,0,7678,"CC(=CCC1(C)CC(C)(C)C=CC1=[O+:1][Li-:2][I])[Si](C)(C)C.CC(C)NC(C)C|((2, 1), 1)"
train,pmechdb_split_0,0,9137,"CCC(C)C(C(=O)NCC1=CC=CC=C1)[NH2+:1][C:2](=O)[O-:3].C[C+](C)C.O=C([O-])C(F)(F)F.[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1696,"C#CC[C+:1]1C=C[C:2](S(=O)(=O)O)([H:3])[CH:4]=[CH:5]1.O=S(=O)(O)[O-:6]|(6, 3);((3, 2), 4);((4, 5), 1)"
